US07115611B2
A solution of 215 mg (0.385 mmol) 2-{4-[4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester and 1.1 ml 1N LiOH-solution in 2.5 ml tetrahydrofurane was stirred for 2 h at RT. The reaction mixture was taken up in ether and washed with 1N HCl and water. The crude residue was suspended in AcOEt/heptane 1:19. The resulting amorphous crystals were filtered off to provide 164 mg of pure 2-{4-[4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid.

reactant | 2-{4-[4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.385 mmol, 215 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1COC)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C30H33F3N2O5
reactant | LiOH | 1N, 1.1 ml | [Li+].[OH-]
solvent | tetrahydrofurane | 2.5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-{4-[4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid | 164 mg | C1(CC1)C1=NC(=NC(=C1COC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)COC)C1=CC=C(C=C1)C(F)(F)F | C28H29F3N2O5
